data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3996,"CC(=C(C(C)=[C:1]=[N+:2](C)S(C)(=O)=O)N(C)S(C)(=O)=O)C(C)=[N:3][Si](C)(C)C.O=S(=O)([O-])C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,673,"CC[O-:1].C[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10385,"C=C[O-:1].C[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5384,"CO[C:1]1([O-:2])C(C(C)=O)CC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9572,"C1=CC=NC=C1.CC(C)[OH:1].Cl[S:2](C1=CC=CC=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,462,"CC[S+:1](CC=C=N)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5623,"CC[OH+:1][C:2](C)(OC)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3658,"C=C[CH2:1][Mg:2][Br].CCCCO[B:3](OCCCC)OCCCC|((2, 1), 3)"
train,pmechdb_split_0,0,2041,"CCC(C[C:1]#[C:2]CC)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,5875,"CC(=O)OCC1C(OC(C)=O)C(OC(C)=O)C(OC(C)=O)[CH:1]([O:2][C:3](C)=[O+:4][B-](F)(F)F)[O:5]1.OC1=CC=CC=C1|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1956,"N#[C:1][H:2].NC1=NC([OH2+])([NH-:3])NC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6732,"Br[PH+:1](Br)Br.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,8560,"CC[SH:1].CO[C:2](=[OH+:3])[CH:4]=[CH2:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7057,"CC=CC(C(C)Br)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9322,"CC(=O)[O:1][H:2].CCOC(=O)[CH:3]=[C:4](C)[N:5]1CCOCC1.[BH3-]C#N|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9396,"N=C=CC[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7739,"CCO[C:1](C)=[O:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6832,"C[CH:1]([F:2])[F:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10126,"CS(=O)(=O)O[Si-:1](C)(C)(C)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,223,"CC1CCC(C2=CC=CC=C2)[C:1](C)=[CH:2]1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2141,"CCC(C)O[C:1](C1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,840,"O=S(CC[O:1][H:2])C1=[N:3]C2=C(C=CC=C2)S1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7710,"C[CH:1]([H:2])[CH+:3]O.[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7598,"C[P+:1](C)(C)Cl.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,1422,"COP(=O)(OC)C(=[N+]=[N-])[C:1](C)=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1116,"CC(O)(CC1=CC=CC=C1)[C:1](C1=CC=CC=C1)([H:2])[C:3](C)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7736,"CC(C)[O-].CCCC(C)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,5519,"CC(C)(C1=C(CCO)C=CC=C1)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3598,"CC(C)C(=O)C(C1=CC=CC=C1)C(CC1=CC=CC=C1)(C(C)C)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9580,"C=C=C(C(CCC1CCCCC1=O)O[B:1]1C2CCCC1CCC2)[Si](C)(C)C.[Na][OH:2]|(2, 1)"
train,pmechdb_split_0,0,8007,"C=C[N+:1](C)(C)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3697,"O=C(O[C+:1]1C=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1)C1=CC=CC=C1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8687,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=C([C:1]2=[O+:2]C(C3=CC=CC=C3)=C[CH:3]2[H:4])C=C1.CC1=CC=CC=C1.[OH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3825,"CC12CCCCC1(O)[C:1](C)([H:2])[C:3](=[O:4])CC2.CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2785,"CCCC[N+](CCCC)(CCCC)CCCC.CCO.CC[O-:1].C[Si](C)(C)O[Si](C)(C)C.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4592,"C=CC(=O)[O:1][C:2](C)(NCC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8147,"CC1=CC=C(C2CC3(C)C(=O)CCC3C3CCC4=CC(=[O+][C:1](C)([O-:2])[Br:3])CCC4=C23)C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1853,"CC(C)[C:1]1([H:2])NC=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1858,"CO.COC1=C2OC3C(=O)CCC4C5CC(=C2C34CC[NH:1]5)C=C1.COC1=C2OC3C45CCNC(CC(=C24)C=C1)C5C[CH:2]([H:3])[C:4]3=[OH+:5].COC=[O+]C|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,514,"CO[C:1](=[O+:2][Li-][S:3]C(C)(C)C)[CH:4]=[CH:5]CBr|(3, 5);((5, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4111,"ClC1=NC=CC=C1NN=[O:1].[Br-].[H:2][OH2+:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8284,"CNC(=O)C(C)[NH2:1].COC(=O)NC(C)[C:2](OC(=NC(C)C)NC(C)C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3553,"Br[B:1](Br)Br.CCCC1=CC(C)=C([O:2]C)C=C1|(2, 1)"
train,pmechdb_split_0,0,493,"C=CCCC(C)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4608,"C=CC[O-:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7639,"CC(=O)[O-].CC[NH+](CC)CC.CN(C)C1=CC=[N+:1]([C:2](CC2CCCCC2)(OC(C)(C)C)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8903,"CC1(C)CCCC2(C)C3C1C([C+:1]2C)[CH:2]=[CH:3]3.O|((3, 2), 1)"
train,pmechdb_split_0,0,4742,"C[P+](C)(C)[CH-:1][CH2:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9339,"CCO[C:1](C=C(O)CC1=CC=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4582,"CCOC(C)([O-])[NH+:1](CC)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
